US06642256B2
Tetrabutylammonium fluoride (TBAF) (1.24 μmol, 1.24 mL, 1 M in THF) was added to a mixture of 2-oxo-2,3-dihydrobenzoxazole-6-carbothioic acid [3-(4-benzylpiperidin-1-yl)-2-(tert-butyldimethylsilanyloxy)propyl]amide (336 mg, 623 μmol) and 4 Å molecular sieves (1 g) in THF (2 mL). After stirring at room temperature for 1.5 hours, the mixture was diluted with EtOAc, washed with saturated NaHCO3, brine and dried (MgSO4) to yield 2-oxo-2,3-dihydrobenzoxazole-6-carbothioic acid [3-(4-benzylpiperidin-1-yl)-2-hydroxypropyl]amide (280 mg, quantitative) as a solid yellow foam:

reactant | Tetrabutylammonium fluoride | 1.24 μmol, 1 M, 1.24 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-oxo-2,3-dihydrobenzoxazole-6-carbothioic acid [3-(4-benzylpiperidin-1-yl)-2-(tert-butyldimethylsilanyloxy)propyl]amide | 623 μmol, 336 mg | C(C1=CC=CC=C1)C1CCN(CC1)CC(CNC(=S)C1=CC2=C(NC(O2)=O)C=C1)O[Si](C)(C)C(C)(C)C | C29H41N3O3SSi
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-oxo-2,3-dihydrobenzoxazole-6-carbothioic acid [3-(4-benzylpiperidin-1-yl)-2-hydroxypropyl]amide | 280 mg | C(C1=CC=CC=C1)C1CCN(CC1)CC(CNC(=S)C1=CC2=C(NC(O2)=O)C=C1)O | C23H27N3O3S
